US05154750
Preparation of 2,2-dimethylpropanoyloxymethyl 2-(4-chloro -6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin -2-yl)oxybenzoate (compound No. 28)
0.9 g of (2.1 mmol) of 2-(4-chloro-6-methoxypyrimidin -2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl) oxybenzoic acid, 0.1 g of 60% sodium hydride and 0.39 g (2.5 mmol) of chloromethylpivalate were reacted in N,N-dimethylformamide, treated and purified in the same manner as in Example 1. To the residue thus obtained, were added ethanol/hexane to precipitate a solid, which was filtered out to obtain 0.6 g of a white crystal having a melting point of from 83° to 85° C.

reactant | 2-(4-chloro-6-methoxypyrimidin -2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl) oxybenzoic acid | 2.1 mmol, 0.9 g | ClC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C18H15ClN4O7
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | chloromethylpivalate | 2.5 mmol, 0.39 g | ClCCC(C(=O)[O-])(C)C
reactant | ethanol hexane | C(C)O.CCCCCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,2-dimethylpropanoyloxymethyl 2-(4-chloro -6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin -2-yl)oxybenzoate | 0.6 g | ClC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCOC(C(C)(C)C)=O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C24H25ClN4O9
